US09233968B1
To a mixture of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (50 mg, 0.152 mmol, 1 eq) and 1-(4-ethynylphenyl)-3-(3-methylphenyl)urea (57 mg, 1.5 eq) in anhydrous DMF (1 mL) under nitrogen atmosphere was added triethylamine (0.085 mL, 4 eq), bis(triphenylphosphine)palladium(II) dichloride (10.7 mg, 0.1 eq) and copper(I) iodide (5.8 mg, 0.2 eq). After the reaction mixture was stirred at room temperature for 10 minutes, it was diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated, and the solid residue was subject to a gradient column chromatography (from DCM to MeOH-DCM 1:9). The products' fractions were collected, concentrated, and the solid residue was triturated with EtOAc-Hex (6:1) to give N-(6-{[4-({[(3-methylphenyl)amino]carbonyl}amino)phenyl]ethynyl}imidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide as a brown solid upon filtration in amount of 46 mg.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 0.152 mmol, 50 mg, 1 eq | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 1-(4-ethynylphenyl)-3-(3-methylphenyl)urea | 57 mg, 1.5 eq | C(#C)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C | C16H14N2O
reactant | triethylamine | 0.085 mL, 4 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 10.7 mg, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 5.8 mg, 0.2 eq | [Cu]I
product | N-(6-{[4-({[(3-methylphenyl)amino]carbonyl}amino)phenyl]ethynyl}imidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | CC=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)C#CC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C26H22N6O2
